US07109234B2
Stage 2: 2-(S)-Ethyl-3-benzyloxypropyl p-toluenesulfonate (XVIIId-1)
1.34 g (0.0069 mol) of 2-(R)-ethyl-3-benzyloxypropan-1-ol (XVIId-1), 12 ml of dichloromethane, 1.31 g (0.0069 mol) of tosyl chloride and 0.084 g (0.0007 mol) of 4-dimethylaminopyridine are introduced into a round-bottomed flask kept under an inert atmosphere. The mixture is cooled to 0° C. and then 0.89 ml (0.011 mol) of pyridine is added dropwise. After leaving overnight in a refrigerator, the mixture is hydrolyzed using a 10% aqueous citric acid solution. The phases are separated and the aqueous phase is extracted with ethyl ether. The combined organic phases are washed with water and with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue is purified by flash chromatography on silica gel (eluent: dichloromethane/cyclohexane=750:25). 1.54 g (0.0044 mol) of the title compound (XVIIId-1) are obtained.

reactant | 2-(R)-ethyl-3-benzyloxypropan-1-ol | 0.0069 mol, 1.34 g | C(C)[C@H](CO)COCC1=CC=CC=C1 | C12H18O2
reactant | tosyl chloride | 0.0069 mol, 1.31 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | pyridine | 0.011 mol, 0.89 ml | N1=CC=CC=C1 | C5H5N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | 4-dimethylaminopyridine | 0.0007 mol, 0.084 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 2-(S)-Ethyl-3-benzyloxypropyl p-toluenesulfonate | 0.0044 mol, 1.54 g, Yield: 64% | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H](COCC1=CC=CC=C1)CC)C | C19H24O4S
